US04242519
Methyl α-methylthio-α-(2-thienyl)propionate (432 g) was dissolved in 4 ml of acetic acid, and 32 mg of anhydrous copper sulfate and 400 mg of zinc powder were added. With stirring, the mixture was heated under reflux for 3.5 hours. After cooling, 30 ml of diethyl ether was added, and the insoluble matter was separated by filtration, followed by washing with 10 ml of diethyl ether. The filtrate and the washing were combined, and washed with 10 ml of water. After 20 ml of water was further added, sodium carbonate was gradually added to neutralize the acetic acid present. The organic layer was then separated, washed with 10 ml of water, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was subjected to short-path distillation (bath temperature 100°-110° C./8 mmHg) to afford 297 mg of methyl α-(2-thienyl)propionate as a colorless oil in a yield of 87%.

reactant | Methyl α-methylthio-α-(2-thienyl)propionate | 432 g | CSC(C(=O)OC)(C)C=1SC=CC1 | C9H12O2S2
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
catalyst | copper sulfate | 32 mg | S(=O)(=O)([O-])[O-].[Cu+2]
catalyst | zinc | 400 mg | [Zn] | Zn
product | methyl α-(2-thienyl)propionate | 297 mg, yield of 87% | S1C(=CC=C1)C(C(=O)OC)C | C8H10O2S
